US06605601B2
Step 5: 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester
3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylic acid methyl ester (300 mg) was dissolved in 20 mL of THF. 10%Pd on C (25 mg) was added and the resulting reaction mixture was hydrogenated under 50 psi of H2 at rt for 6 h. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure to afford 280 mg of the desired product.

reactant | 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-acrylic acid methyl ester | 300 mg | COC(C=CC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=O)=O)CCC)=O | C20H26N4O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd | [Pd] | Pd
product | 3-[4-(2,6-Dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid methyl ester | 280 mg | COC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(NC(C1N2)=O)=O)CCC)=O | C20H28N4O4
